US08431603B2
4-Bromo-3,5-dimethoxybenzamide
To a mixture of 4-bromo-3,5-dimethoxybenzoic acid (15 g, 57.6 mmol) and THF (200 mL) were added triethylamine (9.63 mL, 69.0 mmol) and ethyl chloroformate (5.79 mL, 60.6 mmol) while stirring on ice, and the resulting mixture was stirred for 20 minutes while cooling on ice. After adding 28% aqueous ammonia to the mixture and stirring at room temperature for 2 hours, ethyl acetate was further added. After then thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and the solvent in the filtrate was distilled off under reduced pressure. The obtained residue (solid) was washed with diethyl ether and collected by filtration to obtain the title compound (11.8 g, 45.4 mmol).

reactant | 4-bromo-3,5-dimethoxybenzoic acid | 57.6 mmol, 15 g | BrC1=C(C=C(C(=O)O)C=C1OC)OC | C9H9BrO4
reactant | triethylamine | 69.0 mmol, 9.63 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 60.6 mmol, 5.79 mL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Bromo-3,5-dimethoxybenzamide | 45.4 mmol, 11.8 g | BrC1=C(C=C(C(=O)N)C=C1OC)OC | C9H10BrNO3
